US06677368B2
2-[4-(3-Fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (2-Piperidin-1-yl-ethyl)-amide
2-[4-(3-Fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (90.5 mg) was coupled with 2-piperidin-1-yl-ethylamine (48 mg, 1.5 eq.), HOBt (1 eq.), EDC (1.5 eq.) and TEA (3 drops) in THF (2 mL), DMF (0.3 mL) at rt for overnight to give 82 mg (70%) of the titled compound as a yellow solid.

reactant | 2-[4-(3-Fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid | 90.5 mg | FC=1C=C(C=CC1)C1=C2/C(/C(NC2=CC=C1)=O)=C/C=1NC(=CC1C(=O)O)C | C21H15FN2O3
reactant | 2-piperidin-1-yl-ethylamine | 48 mg, 1.5 eq. | N1(CCCCC1)CCN | C7H16N2
reactant | HOBt | 1 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.5 eq.
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 2-[4-(3-Fluoro-phenyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (2-Piperidin-1-yl-ethyl)-amide | 82 mg, 70% | N1(CCCCC1)CCNC(=O)C1=C(NC(=C1)C)\C=C\1/C(NC2=CC=CC(=C12)C1=CC(=CC=C1)F)=O | C28H29FN4O2
